US09422292B2
To a solution of 6-(4-chlorophenyl)-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-5(6H)-one (40.0 mg, 0.12 mmol) in THF (5 ml) was added BH3-THF solution (1 mL, 1M in THF) slowly, the resulting mixture was stirred under reflux overnight, concentrated, the residue was purified by Prep-HPLC (column: Gemini 5u C18 250*21.5 mm; mobile: H2O (0.1% TFA)-ACN(0.1% TFA)) to give 6-(4-chlorophenyl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine as an off-white solid (3.0 mg, 7.8%).

reactant | 6-(4-chlorophenyl)-1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-5(6H)-one | 0.12 mmol, 40.0 mg | ClC1=CC=C(C=C1)N1C2=C(N3C(C(C1=O)C)=NN=C3C)C=CC=C2 | C18H15ClN4O
reactant | BH3-THF | 1M, 1 mL | B.C1CCOC1
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 6-(4-chlorophenyl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 3.0 mg, 7.8% | ClC1=CC=C(C=C1)N1C2=C(N3C(C(C1)C)=NN=C3C)C=CC=C2 | C18H17ClN4
